* Simple Multiplicative Mixer Approximation
Vrf rf 0 SIN(0 0.1 10Meg)
Vlo lo 0 SIN(0 1 11Meg)
Bmix out 0 V = V(rf)*V(lo)
Rload out 0 50
.tran 1n 5u

.control
set noaskquit
save all
run
.endc

.end

